US06890885B2
Preparation of 5-methyl-5-trifluoromethyl-cyclohexane-1,3-dione (Example B1066)
0.64 g of sodium is introduced into 40 ml of ethanol, 3.23 ml of acetic acid methyl ester and 4.9 g of 4,4,4-trifluoro-3-methyl-but-2-enoic acid isopropyl ester are incorporated and the mixture is heated at boiling temperature for 18 hours. After extraction with dilute hydrochloric acid against ethyl acetate, concentration by evaporation is carried out. The non-purified 2-methyl-4,6-dioxo-2-trifluoromethyl-cyclohexanecarboxylic acid methyl ester that remains behind is esterified in the presence of 9.1 g of sodium hydroxide in a mixture of methanol and water at boiling temperature. The mixture is then acidified with hydrochloric acid and extracted with fresh ethyl acetate. After recrystallisation (ethyl acetate), pure 5-methyl-5-trifluoromethyl-cyclohexane-1,3-dione having a melting point of 150-152° C. is obtained.

reactant | sodium | 0.64 g | [Na] | Na
reactant | acetic acid methyl ester | 3.23 ml | COC(C)=O | C3H6O2
reactant | 4,4,4-trifluoro-3-methyl-but-2-enoic acid isopropyl ester | 4.9 g | C(C)(C)OC(C=C(C(F)(F)F)C)=O | C8H11F3O2
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 5-methyl-5-trifluoromethyl-cyclohexane-1,3-dione | CC1(CC(CC(C1)=O)=O)C(F)(F)F | C8H9F3O2
